US20010000513A1
To a stirred solution of 4-tert-butyl-bromobenzene (21.3 g, 0.0999 mol) in THF (30 mL) at −78° C. under nitrogen was added dropwise a 2.1 M solution of n-butyl lithium in hexanes (45 mL, 0.095 mol), and the mixture was stirred for 1.5 hours. To the mixture was added dropwise neat trimethylborate (10.2 mL, 0.090 mol), and the mixture was allowed to slowly warm to room temperature. The mixture was stirred overnight, then quenched by dropwise addition of 1.0 M aqueous hydrochloric acid. Brine was added, and the organic layer was dried (Na2SO4) and rotary evaporated. The residue was crystallized from n-heptane to give 4.65 g of crude 4-tert-butyl-phenyl-boronic acid as white needles. This material was used directly in the next reaction without further characterization. Thus, in a manner similar to Example 12, Step (b), 4-tert-butyl-phenyl-boronic acid (0.4287 g, 0.00241 mol) was allowed to react with 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester (0.5443 g, 0.00200 mol) in the presence of tetrakis(triphenylphosphine)palladium(0) (0.0472 g, 0.0000408 mol) and 2.0 M aqueous sodium carbonate (2.4 mL, 0.0048 mol) in toluene (5 mL) to give, after chromatography on silica gel (270 g, 230-400 mesh), eluting with toluene then chloroform, 0.50 g. The material was dissolved in diethyl ether, washed with 0.10 M aqueous sodium hydroxide, water and brine. The organics were dried (K2CO3), and rotary evaporated to give 0.45 g of 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a white solid; mp 58-62° C.

reactant | 4-tert-butyl-phenyl-boronic acid | 0.00241 mol, 0.4287 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester | 0.00200 mol, 0.5443 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | sodium carbonate | 0.0048 mol, 2.0 M, 2.4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0000408 mol, 0.0472 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4′-tert-butyl-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.45 g | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C21H24O3
